US04923857
To a solution of (2S,4R)-1-allyloxycarbonyl-2-methoxycarbonyl-4-hydroxypyrrolidine (210.2 g) and triethylamine (150.2 ml) in dichloromethane (2 l) was added dropwise methanesulfonyl chloride (70.7 ml) at 0° C. After stirring for 1 hour at 0° C., the reaction mixture was washed with brine, dried over magnesium sulfate and evaporated in vacuo to give (2S,4R)-1-allyloxycarbonyl-2-methoxycarbonyl-4-methanesulfonyloxypyrrolidine (281.8 g).

reactant | (2S,4R)-1-allyloxycarbonyl-2-methoxycarbonyl-4-hydroxypyrrolidine | 210.2 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O)C(=O)OC | C10H15NO5
reactant | triethylamine | 150.2 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 70.7 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2 l | ClCCl | CH2Cl2
product | (2S,4R)-1-allyloxycarbonyl-2-methoxycarbonyl-4-methanesulfonyloxypyrrolidine | 281.8 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)C(=O)OC | C11H17NO7S
